US07429603B2
5-Bromo-furan-2-carboxylic acid (2-piperidin-1-yl-phenyl)-amide
A solution of 5-bromofuroic acid (Aldrich) (1.0 mmol), 2-piperdinoaniline (1.0 mmol), 1-hydroxybenzotriazole hydrate (“HOBT”) (1.2 mmol), and triethylamine (“Et3N”) (2 mmol) in DCM (10 mL) was stirred for 10 min at room temperature. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (“EDCI”) (1.2 mmol) was then added and the resulting orange solution was stirred overnight. The reaction mixture was treated with saturated sodium bicarbonate (“NaHCO3”) solution (10 mL) and extracted with DCM. The combined organic layers were dried over MgSO4, and concentrated under reduced pressure to afford the crude product as an orange solid. Purification by silica gel chromatography afforded the pure yellow product in 85% yield. MS: 349 (M+1). 1H NMR (CDCl3, 300 MHz): δ 9.75 (br s, 1H), 8.45 (d, 1H), 7.22-7.05 (m, 4H), 6.50 (d, 1H), 3.00-2.80 (m, 4H), 1.95-1.80 (m, 4H), 1.75-1.60 (m, 2H).

reactant | 5-bromofuroic acid | 1.0 mmol | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | 2-piperdinoaniline | 1.0 mmol | N1(CCCCC1)C1=C(N)C=CC=C1 | C11H16N2
reactant | 1-hydroxybenzotriazole hydrate | 1.2 mmol | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 2 mmol | C(C)N(CC)CC | C6H15N
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.2 mmol | Cl.CN(CCCN=C=NCC)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-furan-2-carboxylic acid (2-piperidin-1-yl-phenyl)-amide | 85% yield | N1(CCCCC1)C1=C(C=CC=C1)NC(=O)C=1OC(=CC1)Br | C16H17BrN2O2
